US06576766B1
(d) 7-Hydroxycarbonyl-1-methoxynaphtho[1,2-c]furan-3(1H)-one
A mixture of 7-benzyloxycarbonyl-1-methoxynaphtho[1,2-c]furan-3(1H)-one (33 mg, 0.095 mmol) and a catalytic amount of 10% Pd/C in 2 mL of EtOH was stirred at rt under an atmosphere of H2 (balloon) for 2 h. The mixture was then diluted with THF and filtered through a pad of Celite. The filtrate was then concentrated in vacuo. The crude material was dissolved in saturated aqueous NaHCO3 and washed with EtOAc. The aqueous layer was then acidified with 1 M aqueous HCl and extracted with EtOAc. The extract was dried over MgSO4 and concentrated in vacuo affording 19 mg (79%).

reactant | 7-benzyloxycarbonyl-1-methoxynaphtho[1,2-c]furan-3(1H)-one | 0.095 mmol, 33 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C=CC3=C(C(OC3=O)OC)C2=CC1 | C21H16O5
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 7-Hydroxycarbonyl-1-methoxynaphtho[1,2-c]furan-3(1H)-one | OC(=O)C=1C=C2C=CC3=C(C(OC3=O)OC)C2=CC1 | C14H10O5
